US04503160
There was added dropwise over a period of 30 minutes, 50 grams of allylmethacrylate to a mixture refluxing at 32° C. of 80.6 grams of trichlorosilane and 0.397 grams of a [SG]--S--Pt catalyst sufficient to provide 100 ppm platinum/SiH. The mixture was stirred an additional 2 hours at reflux, cooled to ambient temperature and diluted with 100 ml of hexane and filtered. There was obtained 47.7 grams of a clear, colorless oil upon concentration of the filtrate on a rotary evaporator. Based on method of preparation, NMR and VPC analysis there was obtained a 98% yield of γ-methacryloxypropyltrichlorosilane.

reactant | allylmethacrylate | 50 grams | C(C=C)OC(C(=C)C)=O | C7H10O2
reactant | trichlorosilane | 80.6 grams | Cl[SiH](Cl)Cl | Cl3HSi
solvent | hexane | 100 ml | CCCCCC | C6H14
product | γ-methacryloxypropyltrichlorosilane | 98% yield | C(C(=C)C)(=O)OCCC[Si](Cl)(Cl)Cl | C7H11Cl3O2Si
